Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Nausea, vomiting
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ MEDICINE ATTENDING ADMISSION NOTE .

 

Date: ___

Time:  ___

_
________________________________________________________________

PCP: 
Dr. ___ at ___- confirmed in ___ record

. 

 The history is obtained via her dtr as the patient is Farsi 
speaking. 

HPI: 

___ Farsi speaking community dwelling female with HTN, HLD who 
was in her general state of good health presents with acute 
N/V/D for 4 hours. Per EMS her nausea resolved with 2L O2 NC 
given for ___ minutes with no vomiting enroute. Mild abdominal 
pain, no chest pain, shortness of breath. Upon arrival in the 
ED, vomited yellowish material with concomitant diarrhea, very 
malodorous. No recent antibiotic use. T = 100 R in the ED. She 
has a 9 month old baby at home with her who has not been sick. 
She has not been on colchicine "for a while". She returned from 
___ on ___ after spending a year there. They have a 
___. 
.
In ER: 
(Triage Vitals:99.4 82 138/64 15 98% RA 
Meds and Fluids Given: 
[x] got K, Mg 
[x] cipro/flagyl
[x] ivf 2L + NS with 40K at 100 cc/hr
Foley placed in ED. 

Radiology Studies:
Abdominal CT demonstrates enterocolitis
consults called: none
[x] guaic - 

.

PAIN ___ 
________________________________________________________________
REVIEW OF SYSTEMS:
CONSTITUTIONAL:        [] All Normal
[ +] Fever- here in ED but none at home per her dtr who took her 
temperature  [ ] Chills   [ ] Sweats  [ ] Fatigue   [ ] Malaise  
 [ ]Anorexia  [ ]Night sweats
[ +] __6___ lbs.    weight  gain  over 1.5 months

HEENT:          [] All Normal
[ ] Blurred vision   [ ] Blindness  [ ] Photophobia
[ ] Decreased acuity- chronic glaucoma [ ] Dry mouth  [ ] 
Bleeding gums
[ ] Oral ulcers  [ ] Sore throat    [ ] Epistaxis  [ ] Tinnitus
[ ] Decreased hearing    [ ]Tinnitus [ ] Other:

RESPIRATORY:    [x] All Normal
[ ] SOB     [ ] DOE    [ ] Can't walk 2 flights     [ ] Cough
[ ] Wheeze  [ ] Purulent sputum    [ ] Hemoptysis   [ ]Pleuritic 
pain 
[ ] Other:

CARDIAC:        [X]  All Normal
[ ] Angina    [ ] Palpitations   [ ] Edema   [ ] PND
[ ] Orthopnea    [ ] Chest Pain [ ] Other:

GI:             [] All Normal
[ ] Blood in stool     [ ] Hematemesis     [ ] Odynophagia
[ ] Dysphagia:   [ ] Solids    [ ] Liquids
[ ] Anorexia    [+] Nausea  [+] Vomiting   [ ] Reflux
[+] Diarrhea    [ ] Constipation  []  Abd pain  [ ] Other:

GU:             [X] All Normal
[ ] Dysuria      [ ] Frequency    [ ] Hematuria  []Discharge 
[]Menorrhagia  

SKIN:           [X] All Normal
[ ] Rash        [ ] Pruritus

MS:             [X] All Normal
[ ] Joint pain    [ ] Jt swelling   [ ] Back pain  [ ] Bony pain

NEURO:          [X] All Normal
[ ] Headache    [ ] Visual changes   [ ] Sensory change [ 
]Confusion [ ]Numbness of extremities
[ ] Seizures   [ ] Weakness [ ] Dizziness/Lightheaded [ ]Vertigo 
[ ] Headache

ENDOCRINE:     [X] All Normal
[ ] Skin changes  [ ] Hair changes   [ ] Temp subjectivity

HEME/LYMPH:    [X] All Normal
[ ] Easy bruising   [ ] Easy bleeding    [ ] Adenopathy

PSYCH:         [X] All Normal
[ ] Mood change        []Suicidal Ideation  [ ] Other:  

[X]all other systems negative except as noted above 

 
Past Medical History:
Tricompartmental osteoarthritis of both knees.
2.  Medial tibial plateau fracture, right knee.

hypertension, elevated cholesterol, anxiety, and
pseudogout 
 
Social History:
< 65
Cigarettes: [ ] never  [ ] ex-smoker   [x] current Pack-yrs: 10
                       quit: ______
ETOH:       [x] No   [ ] Yes     drinks/day: _____
Drugs: none
Occupation: ___
Marital Status: [ ] Married  [] Single
Lives:          [ ] Alone    [] w/ family  [ ] Other:

Received influenza vaccination in the past 12 months [ ]Y [ ]N

Received pneumococcal vaccinationin the past 12 months [ ]Y [ ]N

 

 

>65

ADLS:

Independent of ADLS: [x ]dressing- occasional  [ X]ambulating [ 
]hygiene- some asstance with showering [X ]eating  [X]toileting  


Requires assitance with:  [ [ ]dressing  [ ]ambulating [ 
]hygiene [ ]eating  [ ]toileting  

 

IADLS: 

Independent of IADLS: [ ]shopping [ ] accounting [ ]telephone 
use [ ]food preparation  
Requires assitance with IADLS:  [X ]shopping [ X] accounting [ 
X]telephone use [X ]food preparation  

 No memory problems.

[-]pre-existent home care services  
At baseline walks: [ ]independently [X] with a cane [ ]wutwalker 
[ ]wheelchair at ___  
H/o fall within past year: []Y  [X]N
Visual aides  [ X]Y [ ]N
Dentures  [ ]Y [ X]N
Hearing Aides  [ ]Y [ X] N

 
Family History:
Father died of liver disease secondary to pills taken for 
impotence. She does not know what her mother died of. Her 
brother died suddenly at age ___ from a traumatic injury to his 
head. 
 
Physical Exam:
VS: T 99.2 P 81  BP 138/52 RR 20 O2Sat 98% on RA 
GENERAL:  Thin elderly female laying in bed. She is very 
pleasant and interactive. She speaks in full sentences to her 
daughter in ___. 
Nourishment: At risk 
Grooming: OK  
Mentation: Alert, speaks in fluent sentences in response to her 
daughter.   
Eyes:NC/AT, EOMI without nystagmus, no scleral icterus noted  
Ears/Nose/Mouth/Throat: MMM, no lesions noted in OP  
Neck: supple
Respiratory: Lungs CTA bilaterally without R/R/W  
Cardiovascular: RRR, nl. S1S2, no M/R/G noted  
Gastrointestinal: soft, NT/ND, normoactive bowel sounds, no 
masses or organomegaly noted.  
Genitourinary: foley present
Skin: no rashes or lesions noted. No pressure ulcer  
Extremities: No C/C/E bilaterally, 2+ radial, DP and ___ pulses 
b/l.  
Lymphatics/Heme/Immun: No cervical lymphadenopathy noted.  
Neurologic:  
-mental status: Alert, oriented x 3. Able to relate history 
without difficulty.  
-cranial nerves: II-XII intact  
-motor: normal bulk, strength and tone throughout. No abnormal 
movements noted.  
No foley catheter/tracheostomy/PEG/ventilator support/chest  
tube/colostomy  
Psychiatric:  Appropriate pleasant affect. 

 

ACCESS: [X]PIV []CVL site ______

FOLEY: []present [X]none 

TRACH: []present [X]none  

PEG:[]present [X]none  [ ]site C/D/I 

COLOSTOMY: :[]present [X]none  [ ]site C/D/I 

.

 
Pertinent Results:
.

EKG: SR at 75 bpm, ? slight STE in V2, V3, V4, V5, V6

.

LAST ECHO:
___
The left atrium is normal in size. No atrial septal defect is 
seen by 2D or color Doppler. The estimated right atrial pressure 
is ___ mmHg. Left ventricular wall thickness, cavity size and 
regional/global systolic function are normal (LVEF >55%) The 
estimated cardiac index is normal (>=2.5L/min/m2). Tissue 
Doppler imaging suggests an increased left ventricular filling 
pressure (PCWP>18mmHg). Right ventricular chamber size and free 
wall motion are normal. The aortic valve leaflets (3) are mildly 
thickened but aortic stenosis is not present. Trace aortic 
regurgitation is seen. The mitral valve leaflets are mildly 
thickened. There is no mitral valve prolapse. Trivial mitral 
regurgitation is seen. The tricuspid valve leaflets are mildly 
thickened. There is mild pulmonary artery systolic hypertension. 
Significant pulmonic regurgitation is seen. There is a 
trivial/physiologic pericardial effusion. 

IMPRESSION: Normal biventricular systolic function

.

CXR: Preliminary read is negative

.

CT SCAN:
1. findings c/w enterocolitis; focal area of nonobstructive 
intussuception is 
likely transient. 
2. no appendicitis. 

.

BLOOD/URINE CULTURE: [X]pending []positive:
STOOL CULTURE: pending
.

OTHER DIAGNOSTICS:

___ 01:03AM   COMMENTS-GREEN TOP 
___ 01:03AM   LACTATE-1.1
___ 11:15PM URINE  HOURS-RANDOM
___ 11:15PM URINE  HOURS-RANDOM
___ 11:15PM URINE  UHOLD-HOLD
___ 11:15PM URINE  GR HOLD-HOLD
___ 11:15PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 11:15PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-30 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 11:15PM URINE  RBC-3* WBC-2 BACTERIA-NONE YEAST-NONE 
EPI-0
___ 11:15PM URINE  HYALINE-1*
___ 11:15PM URINE  MUCOUS-FEW
___ 08:10PM   GLUCOSE-199* UREA N-34* CREAT-0.8 SODIUM-137 
POTASSIUM-2.7* CHLORIDE-101 TOTAL CO2-23 ANION GAP-16
___ 08:10PM   estGFR-Using this
___ 08:10PM   ALT(SGPT)-37 AST(SGOT)-34 ALK PHOS-74 TOT 
BILI-0.7
___ 08:10PM   LIPASE-31
___ 08:10PM   cTropnT-<0.01
___ 08:10PM   CALCIUM-9.3 PHOSPHATE-3.7 MAGNESIUM-2.5
___ 08:10PM   WBC-18.0*# RBC-4.95 HGB-15.0 HCT-43.0 MCV-87 
MCH-30.4 MCHC-35.0 RDW-15.4
___ 08:10PM   NEUTS-86* BANDS-0 LYMPHS-8* MONOS-4 EOS-2 
BASOS-0
___ 08:10PM   PLT COUNT-316
 
Brief Hospital Course:
The patient is an ___ y.o. community dwelling female with h/o 
anxiety, HTN who presents with acute onset of n/v/d with 
significant electrolyte disburbance (hypokalemia, hypocalcemia, 
hypophos), Neg abdominal CT in the ED that just showed liquid 
stool.  Cdiff neg x2, neg stool culture.  Started emperically on 
cipro/flagyl for 7d course to end on ___.  Her diet was slowly 
advanced and she tolerated toast, eggs and juices on ___ without 
vomitting and her diarrhea also improved.  She was guaic x1 on 
___ but no gross blood in stool.  The most likely explanation is 
viral gastroenteritis, although there were no other sick 
contacts.  Her PCP and ___ discussed her case and she will f/u 
with her PCP on ___ (2d after discharge).  She was continued 
on her other home meds except for hydrochlorothiazide.  Her 
hematocrit was 34 on discharge.  No changes in medication or 
workup was down for chronic joint pains.  

Items to f/u on discharge:
final blood cultures []
status of guaic stools and any necessary colonoscopy if PCP 
feels this is indicated, no acute bleed[]
status of electrolyte imbalance []
 
Medications on Admission:
Reviewed with dtr on admission
ALENDRONATE - 70 mg Tablet - 1 (One) Tablet(s) by mouth once a
week Take with 8oz of water and remain upright for 30 minutes
after taking- Dr. ___ her to stop taking this 
because she has been taking it for ___ years. 
AMLODIPINE - 5 mg Tablet - one Tablet by mouth in the morning 
and
one-half tablet (2.5mg) in the evening (total daily dose of
7.5mg)

COLCHICINE [COLCRYS] - 0.6 mg Tablet - 1 Tablet(s) by mouth once
a day as needed for joint pain if bad pain, can try twice a day. 
She has not been using it. 
HYDROCODONE-ACETAMINOPHEN - 5 mg-500 mg Tablet - ___ Tablet(s) 
by
mouth ___ as needed for pain - not taking
LORAZEPAM [ATIVAN] - 0.5 mg Tablet - 1 (One) Tablet(s) by mouth
once a day as needed
SIMVASTATIN - 40 mg Tablet - one Tablet(s) by mouth once a day
 
Medications - OTC
ASPIRIN [ECOTRIN LOW STRENGTH] - 81 mg Tablet, Delayed Release
(E.C.) - one Tablet(s) by mouth once a day
OMEGA-3 FATTY ACIDS-VITAMIN E [FISH OIL] -  (OTC) - 1,000 mg
Capsule - 1 Capsule(s) by mouth once a day
PSYLLIUM SEED-SUCROSE [FIBER] -   Powder - 1 by mouth q d

 
Discharge Medications:
1. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
2. simvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
3. amlodipine 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

4. acetaminophen 325 mg Tablet Sig: One (1) Tablet PO Q6H (every 
6 hours) as needed for pain/fever.  
5. lorazepam 0.5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily) 
as needed for anxiety, insomnia.  
6. calcium carbonate 200 mg calcium (500 mg) Tablet, Chewable 
Sig: One (1) Tablet, Chewable PO Q 8H (Every 8 Hours).  
7. ciprofloxacin 500 mg Tablet Sig: One (1) Tablet PO Q12H 
(every 12 hours) for 3 days.
Disp:*7 Tablet(s)* Refills:*0*
8. metronidazole 500 mg Tablet Sig: One (1) Tablet PO TID (3 
times a day) for 3 days.
Disp:*10 Tablet(s)* Refills:*0*
9. potassium & sodium phosphates ___ mg Powder in Packet 
Sig: One (1) Powder in Packet PO TID (3 times a day) for 3 days.
Disp:*9 Powder in Packet(s)* Refills:*0*
10. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO once a day.
Disp:*30 Capsule, Delayed Release(E.C.)(s)* Refills:*2*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
gastroenteritis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
you should continue to eat and drink as you can tolerate to stay 
hydrated.  you were hospitalized for a likely gastroenteritis 
(GI illness) causing nausea and vomitting
 
Followup Instructions:
___